US05461026
3-(1-Acetoxy-2-fluoroethyl)-2-(phenylmethylthio)pyridine
A solution of 3-(2-fluoro-1-hydroxyethyl)-2-(phenylmethylthio)pyridine (16 g) in dry THF and acetic anhydride (7.4 g) is stirred with a catality amount of4-dimethylaminopyridine at room temperature for 12 hours. The reaction mixture is then poured into water and neutralized with dilute H2SO4. The mixture is extracted three times with methylene chloride, the combined extracts are dried (MgSO4), evaporated to obtain the desired product (oil, 17.2 g, Yield: 93%).

reactant | 3-(2-fluoro-1-hydroxyethyl)-2-(phenylmethylthio)pyridine | 16 g | FCC(O)C=1C(=NC=CC1)SCC1=CC=CC=C1 | C14H14FNOS
reactant | acetic anhydride | 7.4 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | THF | C1CCOC1 | C4H8O
product | 3-(1-Acetoxy-2-fluoroethyl)-2-(phenylmethylthio)pyridine | 17.2 g, Yield: 93% | C(C)(=O)OC(CF)C=1C(=NC=CC1)SCC1=CC=CC=C1 | C16H16FNO2S
